US05726197
To a solution of 4-chlorophthalimide (60 g) in 1 liter of tetrahydrofuran was added borane-methyl sulfide complex (100 ml of 10M), and the mixture was refluxed overnight. After cooling, 100 ml of 6N hydrochloric acid was added slowly, the mixture refluxed for 2 hours, and then filtered. The filtrate was concentrated under reduced pressure, and the resulting aqueous solution washed with ethyl acetate. The aqueous layer was then basified with ammonium hydroxide and extracted with methylene chloride. Solvent was removed from the extract, and the residue distilled under vacuum to give 4-chloroisoindoline, a white solid, m.p. 48°-50° C.

reactant | 4-chlorophthalimide | 60 g | ClC=1C=C2C(C(=O)NC2=O)=CC1 | C8H4ClNO2
reactant | hydrochloric acid | 6N, 100 ml | Cl | ClH
solvent | tetrahydrofuran | 1 liter | O1CCCC1 | C4H8O
product | 4-chloroisoindoline | ClC1=C2CNCC2=CC=C1 | C8H8ClN
